US06469020B2
2-[2-(1-Benzyloxycarbonyl-piperidin-4-yl)-2-tert-butoxy carbonyl-ethanesulfonyl]-1,2,3,4-tetrahydro-β-carboline-9-carboxylic Acid 2,2,2-Trichloro-ethyl Ester
Prepared from 4-(1-tert-butoxycarbonyl-2-chlorosulfonyl-ethyl)-piperidine-1-carboxylic acid benzyl ester (640 mg) and 3,4-dihydro-1H-β-carboline-2,9-dicarboxylic acid 2-tert-butyl ester 9-(2,2,2-trichloro-ethyl) ester (500 mg) to give, after chromatography (SiO2, 2:1 heptane-ethyl acetate), the title compound (608 mg, 61%) as a white solid.

reactant | 4-(1-tert-butoxycarbonyl-2-chlorosulfonyl-ethyl)-piperidine-1-carboxylic acid benzyl ester | 640 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(CS(=O)(=O)Cl)C(=O)OC(C)(C)C | C20H28ClNO6S
reactant | 3,4-dihydro-1H-β-carboline-2,9-dicarboxylic acid 2-tert-butyl ester 9-(2,2,2-trichloro-ethyl) ester | 500 mg | ClC(COC(=O)N1C2=CC=CC=C2C=2CCN(CC12)C(=O)OC(C)(C)C)(Cl)Cl | C19H21Cl3N2O4
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 2-[2-(1-Benzyloxycarbonyl-piperidin-4-yl)-2-tert-butoxy carbonyl-ethanesulfonyl]-1,2,3,4-tetrahydro-β-carboline-9-carboxylic Acid 2,2,2-Trichloro-ethyl Ester | 608 mg, 61% | ClC(COC(=O)N1C2=CC=CC=C2C=2CCN(CC12)S(=O)(=O)CC(C(=O)OC(C)(C)C)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)(Cl)Cl | C34H40Cl3N3O8S
